US07439260B2
Step 2: 7-bromo-4-(bromoacetyl)-2H-chromen-2-one
To a solution of 7-bromo-4-(1-ethoxyvinyl)-2H-chromen-2-one (2.0 g, 6.8 mmol) in THF and H2O was added N-bromosuccinimide (1.3 g, 14.2 mmol) and stirred for 30 min. Toluene was added and the solvent was evaporated. The residue was chromatographed on silica gel (hexane/EtOAc; 80:20) to give the title compound.

reactant | 7-bromo-4-(1-ethoxyvinyl)-2H-chromen-2-one | 6.8 mmol, 2.0 g | BrC1=CC=C2C(=CC(OC2=C1)=O)C(=C)OCC | C13H11BrO3
reactant | N-bromosuccinimide | 14.2 mmol, 1.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 7-bromo-4-(bromoacetyl)-2H-chromen-2-one | BrC1=CC=C2C(=CC(OC2=C1)=O)C(CBr)=O | C11H6Br2O3
